US07125901B2
N-(4-(2-(4-Aminophenyl)ethyl)-1,3-thiazol-2-yl)acetamide (1.8 g) prepared in a similar manner according to Step 6 of Production Example 1, 2-(methylsulfanyl)-4,5-dihydro-1,3-thiazole (918 mg), hydrochloric acid concentrate (0.57 ml) and 2-methoxyethanol (28 ml) were combined under nitrogen atmosphere, and stirred at 120° C. for 10 hours. After cooled to room temperature, the reaction mixture was concentrated in vacuo. The residue was dissolved in tetrahydrofuran/water, and made basic with aqueous potassium carbonate. The mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash column chromatography over silica gel with chloroform/methanol (30:1→20:1) as an eluent, and triturated with ethyl acetate to give N-(4-(2-(4-(4,5-dihydro-1,3-thiazol-2-ylamino)phenyl)ethyl)-1,3-thiazol-2-yl)acetamide (484.7 mg) as an off-white solid.

reactant | N-(4-(2-(4-Aminophenyl)ethyl)-1,3-thiazol-2-yl)acetamide | 1.8 g | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C13H15N3OS
reactant | 2-(methylsulfanyl)-4,5-dihydro-1,3-thiazole | 918 mg | CSC=1SCCN1 | C4H7NS2
reactant | hydrochloric acid | Cl | ClH
product | N-(4-(2-(4-(4,5-dihydro-1,3-thiazol-2-ylamino)phenyl)ethyl)-1,3-thiazol-2-yl)acetamide | 484.7 mg | S1C(=NCC1)NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C16H18N4OS2
